US05039805
coupling m-nitrophenylacetic acid and β-alanine benzyl ester to give N-[(m-nitrophenyl)acetyl]-β-alanine benzyl ester, MS: 236 (6, M--C6H5 --CH2O),

reactant | m-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
product | N-[(m-nitrophenyl)acetyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C18H18N2O5
